US04324894
1-Bromo-3-aminoisoquinoline is reacted with an equimolar quantity of morpholine as described in Example 1 to give 1-morpholinyl-3-aminoisoquinoline.

reactant | 1-Bromo-3-aminoisoquinoline | BrC1=NC(=CC2=CC=CC=C12)N | C9H7BrN2
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 1-morpholinyl-3-aminoisoquinoline | Yield: 92% | N1(CCOCC1)C1=NC(=CC2=CC=CC=C12)N | C13H15N3O
